US07384934B2
(S)-(−)-2-(4-Benzylpiperazin-2-yl)ethanol
To a 0° C. solution of (S)-(4-benzyl-3,6-dioxopiperazin-2-yl)acetic acid methyl ester (31.9 g, 0.12 mol) in tetrahydrofuran (1 L), add lithium aluminum hydride via slow cannulation (350 mL of a commercial 1.0 M solution in tetrahydrofuran). Stir at room temperature overnight, quench by successive careful addition of 13.3 mL of water, 13.3 mL of 15% aqueous sodium hydroxyde, and 39.9 mL of water, all the while with vigourous stirring to ensure formation of a fine precipitate. Filter through a fritted funnel, washing the solids well with tetrahydrofuran and dichloromethane. Concentrate in vacuo to provide 26.5 g of an oily residue, apply directly to a silica gel column. Elute with a 5% mixture of 7N ammonia-methanol in dichloromethane, to obtain the desired product as an orange oil which solidifies under vacuum. Take up the solid in acetonitrile and sonicate for a few minutes. Filter the resulting precipitate to obtain 7.5 g (25%) of the title compound as an off-white crystalline solid, mp 78.9-80.4° C. Concentrate the mother liquor to obtain 6.8 g (23%) of slightly less pure material as an amorphous solid: mass spectrum (ES): m/e 221.3 (M+1); specific Rotation: −7.84.

reactant | (S)-(4-benzyl-3,6-dioxopiperazin-2-yl)acetic acid methyl ester | 0.12 mol, 31.9 g | COC(C[C@@H]1NC(CN(C1=O)CC1=CC=CC=C1)=O)=O | C14H16N2O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | (S)-(−)-2-(4-Benzylpiperazin-2-yl)ethanol | 26.5 g | C(C1=CC=CC=C1)N1C[C@@H](NCC1)CCO | C13H20N2O
